US07465730B2
Utilizing the general procedure outlined in EXAMPLE 1, 1-(2,4-dimethoxyphenyl)-2,5-dimethylpyrrole (2.31 g, 10 mmol), acetic anhydride (5 mL), and hydriodic acid (0.13 mL, 1.7 mmol) reacted to give 3-acetyl-1-(2,4dimethoxyphenyl)-2,5-dimethylpyrrole as a tan solid: 1H NMR (CDCl3, 500 MHz) δ 7.02 (dd, 1H), 6.59 (d, 1H), 6.55 (dd, 1H), 6.32 (s, 1H), 3.90 (s, 3H), 3.76 (s, 3H), 2.42 (s, 3H), 2.25 (s, 3H), 1.93 (s, 3H); MS (ESI) 274 (M+H)+.

reactant | 1-(2,4-dimethoxyphenyl)-2,5-dimethylpyrrole | 10 mmol, 2.31 g | COC1=C(C=CC(=C1)OC)N1C(=CC=C1C)C | C14H17NO2
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydriodic acid | 1.7 mmol, 0.13 mL | I | HI
product | 3-acetyl-1-(2,4dimethoxyphenyl)-2,5-dimethylpyrrole | C(C)(=O)C1=C(N(C(=C1)C)C1=C(C=C(C=C1)OC)OC)C | C16H19NO3
